US09303040B2
A solution of 4-chloro-5-methyl-5,7-dihydrothieno[3,4-d]pyrimidine (4 g, 21 mmol) and 1-Boc-piperazine (8.5 g, 46 mmol) in NMP (20 mL) was heated to 120° C. overnight. After cooling, the mixture was diluted with ethyl acetate (500 mL) and washed with water (6×300 mL). The organic phase was dried and concentrated. The residue was purified by silica gel chromatography, eluting with Hexane/ethyl acetate (2:1) to provide tert-butyl 4-(5-methyl-5,7-dihydrothieno[3,4-d]pyrimidin-4-yl)piperazine-1-carboxylate (5 g, 69%). The crude material was purified by chiral separation on chiral HPLC (ODH, 250×20 mm, 100% acetonitrile, 15 mL/min) to give (R)-tert-butyl 4-(5-methyl-5,7-dihydrothieno[3,4-d]pyrimidin-4-yl)piperazine-1-carboxylate (retention time: 4.016 min) and (S)-tert-butyl 4-(5-methyl-5,7-dihydrothieno[3,4-d]pyrimidin-4-yl)piperazine-1-carboxylate (retention time: 4.551 min). 1H NMR (CDCl3, 400 MHz) δ 8.53 (s, 1H), 4.83 (m, 1H), 4.18 (m, 2H), 3.73-3.56 (m, 4H), 3.51-3.43 (m, 4H), 1.50 (m, 9H). MS (APCI+) [M+H]+ 337.

reactant | 4-chloro-5-methyl-5,7-dihydrothieno[3,4-d]pyrimidine | 21 mmol, 4 g | ClC=1C2=C(N=CN1)CSC2C | C7H7ClN2S
reactant | 1-Boc-piperazine | 46 mmol, 8.5 g | C(=O)(OC(C)(C)C)N1CCNCC1 | C9H18N2O2
solvent | NMP | 20 mL | CN1CCCC1=O | C5H9NO
solvent | ethyl acetate | 500 mL | C(C)(=O)OCC | C4H8O2
product | tert-butyl 4-(5-methyl-5,7-dihydrothieno[3,4-d]pyrimidin-4-yl)piperazine-1-carboxylate | 5 g, 69% | CC1SCC=2N=CN=C(C21)N2CCN(CC2)C(=O)OC(C)(C)C | C16H24N4O2S
